US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-hydroxyphenyl)-1-methyl-1H-1,2,4-triazole
To benzene (300 ml) are added the crude product of 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-methoxyphenyl)-1-methyl-1H-1,2,4-triazole (70.5 g) and anhydrous aluminum chloride (80.0 g), which are heated under reflux for 3 hours with stirring. After cooling to room temperature, the reaction mixture is poured into ice water and extracted with toluene. The organic layer is washed with water, extracted with aqueous solution of 20% NaOH, and the aqueous layer is acidified by adding a concentrated sulfuric acid little by little while cooling with ice and extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 64.2 g of desired compound.

reactant | 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-methoxyphenyl)-1-methyl-1H-1,2,4-triazole | 70.5 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=C(C=C1)OC)Cl)C | C16H12Cl2FN3O
reactant | aluminum chloride | 80.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-hydroxyphenyl)-1-methyl-1H-1,2,4-triazole | 64.2 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=C(C=C1)O)Cl)C | C15H10Cl2FN3O
